US04567172
17α-Acetoxy-11β-hydroxy-21-isovaleryloxy-6α-methyl-1,4-pregnadiene-3,20-dione
In 4 ml of methylene chloride was dissolved 208 mg of 11β,21-dihydroxy-17α-acetoxy-6α-methyl-1,4-pregnadiene-3,20-dione obtained according to the method as described in Example 6. To this solution was added 202 mg of triethylamine and the solution was cooled externally with ice. To this solution was added slowly a solution of 120 mg of isovaleryl chloride in 1 ml of methylene chloride, and the mixture was stirred for 1.5 hours. To the reaction liquid was added 1 ml of methanol, and the mixture was further stirred for one hour. The reaction liquid was concentrated under reduced pressure and the resultant residue was directly subjected to preparative thin layer chromatography (silica gel) for purification and then recrystallized from ether-hexane whereby 195 mg (yield: 78.0%) of the title compound was obtained as colorless fine needle crystals. Shown below are physical properties and various analytical data of this compound.

reactant | 11β,21-dihydroxy-17α-acetoxy-6α-methyl-1,4-pregnadiene-3,20-dione | 208 mg | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(C)=O)C)=O)C | C24H32O6
reactant | triethylamine | 202 mg | C(C)N(CC)CC | C6H15N
reactant | isovaleryl chloride | 120 mg | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | methanol | 1 ml | CO | CH4O
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 17α-Acetoxy-11β-hydroxy-21-isovaleryloxy-6α-methyl-1,4-pregnadiene-3,20-dione | 195 mg, yield: 78.0% | C(C)(=O)O[C@]1(C(COC(CC(C)C)=O)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C29H40O7
